US08217177B2
tert-butyl (6-(2-(dimethylamino)thiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate:
To a solution of 5-bromo-N,N-dimethylthiazol-2-amine (0.73 g, 3.53 mmol) in anhydrous THF (9 mL) was added isopropylmagnesium lithium chloride (1.0 M in THF, 4.8 mL, 4.8 mmol) at −40° C. The solution was stirred for twenty minutes followed by the dropwise addition of zinc chloride (0.5 M in THF, 10 mL, 5.2 mmol). The mixture was brought to room temperature and stirred for thirty minutes followed by the addition of dimethylacetamide (12 mL), Pd2(dba)3, (0.32 g, 0.35 mmol), Q-Phos (0.34 g, 0.56 mmol), and tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (0.29 g, 1.0 mmol). The mixture was stirred at 50° for two hours then was quenched with saturated ammonium chloride and purified by MPLC chromatography (eluted with a gradient of 0 to 10% (1:10:90 NH4OH:MeOH:DCM) in DCM) to yield the product as a light orange solid (0.27 g, 71%).

reactant | 5-bromo-N,N-dimethylthiazol-2-amine | 3.53 mmol, 0.73 g | BrC1=CN=C(S1)N(C)C | C5H7BrN2S
reactant | isopropylmagnesium lithium chloride | 4.8 mmol, 1.0 M, 4.8 mL | [Cl-].[Li+].C(C)(C)[Mg+].[Cl-]
reactant | dimethylacetamide | 12 mL | CC(=O)N(C)C | C4H9NO
reactant | tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 1.0 mmol, 0.29 g | ClC=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C11H14ClN5O2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 5.2 mmol, 0.5 M, 10 mL | [Cl-].[Zn+2].[Cl-]
catalyst | Pd2(dba)3 | 0.35 mmol, 0.32 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Q-Phos | 0.56 mmol, 0.34 g | CC(C)(C)P([C-]1C=CC=C1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
product | tert-butyl (6-(2-(dimethylamino)thiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 0.27 g, 71% | CN(C=1SC(=CN1)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O)C | C16H21N7O2S
